US07186729B2
Step 1: 3-[(4-Chloro-benzyl)-(2-hydroxy-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester
To a solution of 3-[(4-chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester (0.44 g, 1.15 mmol) in methanol cooled to 0° C. was added sodium borohydride (0.13 g, 3.45 mmol) and the resulting mixture was heated to 65° C. for 16 h. Additional sodium borohydride (0.26 g, 6.90 mmol) was added to the reaction mixture and stirred further at 65° C. for 18 h. The reaction mixture was concentrated, dissolved in ethyl acetate and washed with saturated aqueous sodium bicarbonate. The aqueous layer was extracted with ethyl acetate. The combined organics were dried over sodium sulfate. The crude product was purified on silica using gradient elution from hexane/ethyl acetate (50%) to ethyl acetate (100%). ESI-MS m/z: 355 (M+1), UV retention time: 1.27 min.

reactant | 3-[(4-chloro-benzyl)-methoxycarbonylmethyl-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.15 mmol, 0.44 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(CC(=O)OC)CC1=CC=C(C=C1)Cl | C19H27ClN2O4
reactant | sodium borohydride | 3.45 mmol, 0.13 g | [BH4-].[Na+]
reactant | sodium borohydride | 6.90 mmol, 0.26 g | [BH4-].[Na+]
solvent | methanol | CO | CH4O
product | 3-[(4-Chloro-benzyl)-(2-hydroxy-ethyl)-amino]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(CCO)CC1=CC=C(C=C1)Cl | C18H27ClN2O3
